US06264939B1
An aqueous solution of sodium hydroxide (10%, 22 ml) was added to a solution of technical grade ethyl (2E,4Z)-2,4-decadienoate (10 g) in tetrahydrofuran (100 ml). The mixture was heated under reflux for 5 hours with rapid stirring in a nitrogen atmosphere. After allowing to cool to room temperature, tetrahydrofuran was removed on a rotary evaporator, the residue was diluted with water (100 ml), and acidified to pH2 with 6N HCl. The acid was extracted with ether (3×100 ml) and the combined extracts were washed with water (2×50 ml) and brine (50 ml) and dried using anhydrous magnesium sulfate. Removal of ether under reduced pressure gave (2E,4Z)-2,4-decadienoic acid. This product was used in the next step without further purification.

reactant | sodium hydroxide | 22 ml | [OH-].[Na+]
reactant | ethyl (2E,4Z)-2,4-decadienoate | 10 g | C(\C=C\C=C/CCCCC)(=O)OCC | C12H20O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (2E,4Z)-2,4-decadienoic acid | C(\C=C\C=C/CCCCC)(=O)O | C10H16O2
